US06124323
To a solution of [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-carbamic acid methyl ester (2.03 g, 5.86 mmol) in anhydrous dimethylformamide (20 ml) was added iodomethane (1.82 ml, 29.3 mmol), followed by portion wise addition of NaH (0.35 g, 60%, 8.79 mmol). The reaction was stirred under nitrogen for 2 h. The reaction was quenched with NH4Cl (sat) (10 ml) and brine (10 ml), and the aqueous layer was extracted with ether (3×30 ml). The combined organics were dried over MgSO4, filtered and evaporated. The residue was chromatographed on silica gel eluting with hexanes, then 30% ethyl acetate/hexanes to give [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-methyl-carbamic acid methyl ester (0.93 g, 89%) as an oil. Analysis calculated for C18H20N2O6 : C, 59.99; H, 5.59; N, 7.77. Found: C, 59.30; H, 5.34; N, 7.62.

reactant | [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-carbamic acid methyl ester | 5.86 mmol, 2.03 g | COC(NC1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-])=O | C17H18N2O6
reactant | iodomethane | 29.3 mmol, 1.82 ml | IC | CH3I
reactant | NaH | 8.79 mmol, 0.35 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-methyl-carbamic acid methyl ester | 0.93 g, 89% | COC(N(C)C1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-])=O | C18H20N2O6
